US08754103B2
1-bromo-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine (50.0 mg, 0.118 mmol), Pd(AcO)2 (2.6 mg, 0.0118 mmol, 0.1 equiv.) and P(o-tol)3 (14.4 mg, 0.0472 mmol, 0.4 equiv.) were placed in a 50 mL round bottomed flask under a nitrogen atmosphere. To the flask were added DMF (1 mL), a solution of Et3N (30.0 mg, 0.295 mmol, 2.5 equiv.) in DMF (1 mL) and a solution of methyl acrylate (50.8 mg, 0.59 mmol, 5.0 equiv.) were successively added. The mixture was heated at 80° C. for 19 h. And then, the solvent was removed from the reaction mixture to give a crude mixture. The crude mixture was purified by a column chromatography (SiO2=25 g, EtOAc/hexane=1:7 to 1:3, Rf=0.1 with EtOAc/hexane=1:7) to give (E)-methyl 3-(6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridin-1-yl)acrylate as light yellow crystals.

reactant | 1-bromo-6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridine | 0.118 mmol, 50.0 mg | BrC=1N=C(N2C1C=CC(=C2)C2=CC=C(C=C2)OC(F)(F)F)C(F)(F)F | C15H7BrF6N2O
reactant | P(o-tol)3 | 0.0472 mmol, 14.4 mg, 0.4 equiv. | CC1=C(C=CC=C1)P(C2=C(C=CC=C2)C)C3=C(C=CC=C3)C | C21H21P
reactant | Et3N | 0.295 mmol, 30.0 mg, 2.5 equiv. | CCN(CC)CC | C6H15N
reactant | methyl acrylate | 0.59 mmol, 50.8 mg, 5.0 equiv. | C(C=C)(=O)OC | C4H6O2
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (E)-methyl 3-(6-(4-(trifluoromethoxy)phenyl)-3-(trifluoromethyl)imidazo[1,5-a]pyridin-1-yl)acrylate | FC(OC1=CC=C(C=C1)C=1C=CC=2N(C1)C(=NC2/C=C/C(=O)OC)C(F)(F)F)(F)F | C19H12F6N2O3
